US07226926B2
2-[8-Fluoro-3-(2-trifluoromethylpyrimidin-4-yl)imidazo[1,2-α]pyridin-7-yl]propan-2-ol
2-Trifluoromethyl-4-chloropyrimidine (100 mg, 0.55 mmol) and tetrakis(triphenylphosphine)palladium(0) (25 mg, 0.022 mmol) were combined with a THF solution of 8-fluoro-3-(tri-n-butylstannyl)-7-[2-(triethylsilyloxy)prop-2-yl]imidazo[1,2-α]pyridine (circa 0.2 M; 3 ml, circa 0.6 mmol) and heated to reflux, with stirring, for 3 h. After cooling, the solution was concentrated onto silica and purified by column chromatography (silica; 50% EtOAc/isohexane), then the silyl protection removed by treatment with an ethanolic solution of 37% hydrochloric acid (5 drops in 2 ml of ethanol), affording the title compound as a white amorphous solid: δH (360 MHz, CDCl3) 1.77 (6H, s), 7.48 (1H, m), 7.78 (1H, d, J 5.6), 8.42 (1H, s), 9.42 (1H, m), 9.71 (1H, d, J 7.6); m/z (ES+) 341 (100%, [MH]+).

reactant | 2-Trifluoromethyl-4-chloropyrimidine | 0.55 mmol, 100 mg | FC(C1=NC=CC(=N1)Cl)(F)F | C5H2ClF3N2
reactant | 8-fluoro-3-(tri-n-butylstannyl)-7-[2-(triethylsilyloxy)prop-2-yl]imidazo[1,2-α]pyridine | circa 0.6 mmol, circa 0.2 M, 3 ml | FC=1C=2N(C=CC1C(C)(C)O[Si](CC)(CC)CC)C(=CN2)[Sn](CCCC)(CCCC)CCCC
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.022 mmol, 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | C1CCOC1 | C4H8O
product | 2-[8-Fluoro-3-(2-trifluoromethylpyrimidin-4-yl)imidazo[1,2-α]pyridin-7-yl]propan-2-ol | FC=1C=2N(C=CC1C(C)(C)O)C(=CN2)C2=NC(=NC=C2)C(F)(F)F | C15H12F4N4O
